US08609841B2
Synthesis of 4-(3-aminophenyl)-2-methyl-3-butyn-2-ol of formula (IV)-exemplifying the invention
In a 3-liter 4-neck flask provided with a mechanical stirrer there are introduced—in the order—64.0 g (0.50 mol, 1.0 eq.) of 4-hydroxy-4-methyl-2-pentinoic acid, 5.7 g of Pd(OAc)2 (5% mol), 24 g of XPhos (2-Dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl; 10% mol) and 378 g (1.5 mol, 3 eq. mol.) of TBAF (Tetra-n-butylammonium fluoride). The mixture is dissolved, under Argon atmosphere, in 2 L of distilled anhydrous THF. 55 ml of 3-Bromoaniline (d=1.585 g/mL, 0.5 mol, 1.0 eq. mol.) are added to this solution.

reactant | 4-hydroxy-4-methyl-2-pentinoic acid | 0.50 mol, 64.0 g, 1.0 eq. | OC(C#CC(=O)O)(C)C | C6H8O3
reactant | XPhos | 24 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | TBAF | 1.5 mol, 378 g, 3 eq. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-Bromoaniline | 0.5 mol, 55 ml, 1.0 eq. | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | THF | 2 L | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 5.7 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(3-aminophenyl)-2-methyl-3-butyn-2-ol | NC=1C=C(C=CC1)C#CC(C)(O)C | C11H13NO
